US07390908B2
Route 6: 2-[(3-isopropyloxy-5-(2-chlorobenzylamino)benzoyl)amino]-5-thiazolecarboxylic acid
2-Chlorobenzaldehyde (0.012 ml, 0.11 mM) was added to 2-[(3-isopropoxy-5-aminobenzoyl)amino]-5-thiazolecarboxylic acid (29 mg 0.09 mM) and 4A molecular sieves (90 mg) in methanol under an inert atmosphere at room temperature. After 1 hr sodium cyanoborohydride (7 mg, 0.11 mM) was added and the reaction mixture stirred for 16 hrs. The reaction mixture was filtered, concentrated in vacuo, the residue stirred with water then extracted with ethyl acetate (3×10 ml). The organic extracts were washed with brine (20 ml), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a pale yellow solid (22 mg, 55%); 1H nmr (d6-DMSO, δ values): 1.22 (6H, d); 4.36 (2H, m); 4.58 (1H, m); 6.24 (1H, s); 6.47 (1H, m); 6.84 (2H, m); 7.26 (3H, m); 7.37 (2H, m); 7.45 (1H, m); 7.76 (1H, br s). MS [M-CO2H]−400, 402.

reactant | 2-Chlorobenzaldehyde | 0.11 mM, 0.012 ml | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 2-[(3-isopropoxy-5-aminobenzoyl)amino]-5-thiazolecarboxylic acid | 0.09 mM, 29 mg | C(C)(C)OC=1C=C(C(=O)NC=2SC(=CN2)C(=O)O)C=C(C1)N | C14H15N3O4S
reactant | sodium cyanoborohydride | 0.11 mM, 7 mg | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[(3-isopropyloxy-5-(2-chlorobenzylamino)benzoyl)amino]-5-thiazolecarboxylic acid | 22 mg, 55% | C(C)(C)OC=1C=C(C(=O)NC=2SC(=CN2)C(=O)O)C=C(C1)NCC1=C(C=CC=C1)Cl | C21H20ClN3O4S
